US05814631
As the starting substances, methyl 4-chloro-2-phenoxycarbonylaminobenzoate and 4-(5-tetrazolyl) benzenesulfonamide were used and the same method was applied as in Example 36 to obtain N-[4-(5-tetrazolyl)benzenesulfonyl]-N'-(2-methoxycarbonyl-5-chlorophenyl)urea and further to obtain from 2.00 g (4.44 mmol) of N-[4-(5-tetrazolyl)benzenesulfonyl]-N'-(2-carboxyl-5-chlorophenyl)urea 602 mg of the above-identified compound (yield 33.5%). Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δppm, DMSO-d6):7.14 (1H,s), 7.24 (1H,d), 7.87 (2H,d), 8.34 (4H,q), 11.66 (1H,br).

reactant | methyl 4-chloro-2-phenoxycarbonylaminobenzoate | ClC1=CC(=C(C(=O)OC)C=C1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
reactant | 4-(5-tetrazolyl) benzenesulfonamide | N1N=NN=C1C1=CC=C(C=C1)S(=O)(=O)N | C7H7N5O2S
product | N-[4-(5-tetrazolyl)benzenesulfonyl]-N'-(2-methoxycarbonyl-5-chlorophenyl)urea | N1N=NN=C1C1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C=CC(=C1)Cl)C(=O)OC | C16H13ClN6O5S
